US07973040B2
Step 2: trans-2-pent-4-en-1-ylcyclopropanol
A solution (0.45 M) of the preceding compound in hexane was treated with a solution (15%) of Et2Zn (1.2 eq) in toluene, and the resulting solution was cooled in an ice bath. Diiodomethane (1.2 eq) was added dropwise, then the solution was stirred for 1 h before being warmed to 20° C. Pyridine (6 eq) was added, and the slurry was stirred for 15 min then poured onto petroleum ether. The mixture was filtered repeatedly through CELITE until a transparent solution was obtained. This mixture was concentrated at 100 mbar, and the solution that remained (that contained trimethyl{[(trans)-2-pent-4-en-1-ylcyclopropyl]oxy}silane, toluene and pyridine) was further diluted with THF. The mixture was cooled to 0° C. then treated dropwise with a solution (1 M) of TBAF (1.2 eq) in THF. After 10 min, the mixture was allowed to warm to 20° C., and after a further 1 h was poured into H2O. The aqueous phase was extracted with EtOAc, and the combined organic extracts were washed with brine then dried. Removal of the volatiles afforded a residue that was purified by flash chromatography (eluent 0-66% Et2O/petroleum ether) to furnish the title compound (71%) as a colorless liquid. 1H NMR (400 MHz, CDCl3) δ 5.85-5.75 (m, 1H), 5.00 (dd, J=17.1, 1.6 Hz, 1H), 4.94 (br d, J=10.4 Hz, 1H), 3.20 (apparent dt, J=6.4, 2.5 Hz, 1H), 2.10-2.04 (m, 2H), 1.52-1.44 (m, 2H), 1.29-1.19 (m, 1H), 1.15-1.07 (m, 1H), 0.95-0.87 (m, 1H), 0.71-0.66 (m,1H), 0.31 (apparent q, J=6.0 Hz, 1H).

reactant | Et2Zn | 1.2 eq | [Zn](CC)CC
reactant | Diiodomethane | 1.2 eq | ICI | CH2I2
reactant | Pyridine | 6 eq | N1=CC=CC=C1 | C5H5N
reactant | TBAF | 1 M, 1.2 eq | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | THF | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | H2O | O | H2O
product | trans-2-pent-4-en-1-ylcyclopropanol | 71% | C(CCC=C)[C@H]1[C@@H](C1)O | C8H14O
